US04870076
2-[2-(p-Acetamidobenzenesulphonylamino)-ethyl]-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and p-acetamidobenzenesulphonylchloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | p-acetamidobenzenesulphonylchloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
product | 2-[2-(p-Acetamidobenzenesulphonylamino)-ethyl]-1-methylpyrrol | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C15H19N3O3S
